*$
*//-----------------------------------------------------------------------//
*//   Part      : HHXJ250ARA271MHA0G
*//   Date      : 2019/12/03
*//   Model     : RC-ladder 7 Element Model
*//-----------------------------------------------------------------------//

.SUBCKT HHXJ250ARA271MHA0G_20deg-C 1 2

C1 4 2 1.36e-04
C2 5 2 5.56e-05
C3 6 2 6.67e-05
R1 3 4 1.01e-02
R2 4 5 6.04e-02
R3 5 6 9.00e-01
L1 1 3 3.60e-09

.ENDS
*$
